US08865732B2
BOC anhydride (9.6 g, 44 mmol) was added slowly to a solution of 3-methylpyridin-2-amine (4 g, 37 mmol) and cesium carbonate (7.2 g) dry in DMF (20 mL) and the reaction was maintained at rt for 2 d. The reaction mixture was poured into water (300 mL) with stirring. The resulting white precipitate was collected by filtration and dried under vacuum to give 4.45 g of tert-butyl 3-methylpyridin-2-ylcarbamate: 1H NMR (300 MHz, CDCl3) δ 8.26 (m, 1H); 7.52 (m, 1H); 7.02 (m, 1H); 6.88 (br s, 1H); 2.29 (s, 3H); 1.52 (s, 9H).

reactant | BOC anhydride | 44 mmol, 9.6 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 3-methylpyridin-2-amine | 37 mmol, 4 g | CC=1C(=NC=CC1)N | C6H8N2
reactant | cesium carbonate | 7.2 g | C([O-])([O-])=O.[Cs+].[Cs+]
product | tert-butyl 3-methylpyridin-2-ylcarbamate | 4.45 g | CC=1C(=NC=CC1)NC(OC(C)(C)C)=O | C11H16N2O2
